Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11],-0.779764318299
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],0.76109445199
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.89150130689
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9],4.86327306005
[C:1]#[C:2][O:3][C:4][H:5].[C:6]=[O:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7],-2.74711988911
[H:11].[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12][H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-3.00665484762
[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-3.47543422715
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])([C:4][O:5][C:6]([H:7])[H:8])[C:9]([H:10])[H:11],3.84191665
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.1048334691500004
[H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.76847921984
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],5.78926520403
[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-6.494259286980001
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.68912334274
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[H:8].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-2.04808777711
[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.97443137026
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-5.2083733510800005
[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:6][H:7]>>[C:1]#[C:2][H:3].[C:4](=[O:5])[O:6][H:7],3.48636672156
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.58175754368
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.64312628771
[H:1][C:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.97835056514
[H:1][C:2]#[C:3][O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-2.17253578831
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.29215306816
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],5.50709525291
[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.6023773779
[C:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[C:8]([H:9])[H:10].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.76527046865
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.58623549462
[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2].[O:3]=[C:4]=[C:5]([H:6])[H:7],-3.12843179941
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],0.0766362793893
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])=[O:8].[H:9],3.4849382308
